US07199239B2
[4-({Butyl[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetic acid
To a solution of ethyl [4-({butyl[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate (110 mg, 0.21 mmol) in MeOH (2 mL) and THF (2 mL) at room temperature was added 2M NaOH (1 mL, 2 mmol). The resultant mixture was stirred for 2 h. The solvents were removed in vacuo and the residue was partitioned between CH2Cl2 (2×20 mL) and 2M HCl (20 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo affording the title compound as a white solid (103 mg).

reactant | ethyl [4-({butyl[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate | 0.21 mmol, 110 mg | C(CCC)N(C=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C30H34F3NO3
reactant | NaOH | 2 mmol, 2M, 1 mL | [OH-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | [4-({Butyl[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetic acid | 103 mg | C(CCC)N(C=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C)CC1=CC(=C(OCC(=O)O)C=C1)C | C28H30F3NO3
